US07790725B2
3-Aminopyridine (20 g) was dissolved in concentrated hydrochloric acid (125 mL), and an a aqueous solution (40 mL) of sodium nitrite (15 g) was added at −10° C. over 20 min. The mixture was stirred at 0° C. for 2 hr. This solution was added to a solution (200 mL) of tin(II) chloride (80 g) in concentrated hydrochloric acid at −2° C. over 20 min. The mixture was stirred for 14 hr. The precipitate was filtered off and ice was added. The mixture was made strongly-basic with a 50% a aqueous potassium hydroxide solution and extracted with dichloromethane. The extract solution was dried and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (400 mL) and 4 mol/L of hydrochloric acid-ethyl acetate (55 mL) was added under ice-cooling. The precipitate was collected by filtration to give 3-hydrazinopyridine dihydrochloride (18 g) as a pale-yellow solid.

reactant | 3-Aminopyridine | 20 g | NC=1C=NC=CC1 | C5H6N2
reactant | sodium nitrite | 40 mL, 15 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 200 mL, 80 g | [Sn](Cl)Cl
solvent | hydrochloric acid | 125 mL | Cl | ClH
product | 3-hydrazinopyridine dihydrochloride | 18 g | Cl.Cl.N(N)C=1C=NC=CC1 | InChI=1S/C5H7N3.2ClH/c6-8-5-2-1-3-7-4-5;;/h1-4,8H,6H2;2*1H
